US03941782
A. Methyl γ-Thiomorpholinobutyrate
A mixture of 64.0 g. (0.28 mole) of methyl γ-iodobutyrate, 28.0 g. (0.28 mole) of triethylamine, 28.7 g. (0.28 mole) of thiomorpholine (J. Am. Chem. Soc. 76, 1187 (1954)) and 1 liter of benzene was stirred and heated at 60°-70°C. for 18 hours. After cooling the reaction mixture, the precipitated amine hydroiodide was removed by suction filtration. The benzene solution was evaporated to give a orange-red residue which was vacuum distilled (b.p. 84°-85°C. at 0.1 mm) to give 28.38 g. (50%) of the product as a colorless liquid.

reactant | methyl γ-iodobutyrate | 0.28 mole | ICCCC(=O)OC | C5H9IO2
reactant | triethylamine | 0.28 mole | C(C)N(CC)CC | C6H15N
reactant | thiomorpholine | 0.28 mole | N1CCSCC1 | C4H9NS
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | Methyl γ-Thiomorpholinobutyrate | S1CCN(CC1)CCCC(=O)OC | C9H17NO2S
